US08124806B2
Synthesis of acetic acid 2,3-diacetoxy-3-chlorocarbonyl-propyl ester (3)
The 2,3,4-triacetoxy-butyric acid (25 g, 0.095 mol) was stirred in thionyl chloride (15.3 mL) at room temperature with a condenser fitted. The reaction was stirred for 48 hours and then the thionyl chloride was removed under reduced pressure to give an oil, which 1H and 13C NMR (CDCl3) showed to be the desired material (26.1 g, 98%).

reactant | 2,3,4-triacetoxy-butyric acid | 0.095 mol, 25 g | C(C)(=O)OC(C(=O)O)C(COC(C)=O)OC(C)=O | C10H14O8
reactant | thionyl chloride | 15.3 mL | S(=O)(Cl)Cl | Cl2OS
product | acetic acid 2,3-diacetoxy-3-chlorocarbonyl-propyl ester | C(C)(=O)OC(COC(C)=O)C(C(=O)Cl)OC(C)=O | C10H13ClO7
